US07465726B2
4-[4-(1-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A suspension of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (638.1 mg, 1.906 mmol, 1 eq) and 1-methyl-1H-indazol-5-ylamine (567.4 mg, 3.855 mmol, 2 eq) in n-BuOH (26 mL) was stirred at 120° C. for 15 h. A white precipitate was filtered off, washed several times with MeOH, and dried under high vacuum, giving the title compound, as a white solid. The filtrate was adsorbed onto Hydromatrix, dry loaded, and purified by chromatography on silica gel [Jones Flashmaster, 20 g/70 mL cartridge, eluting with MeOH:DCM 2%→4%→6%]. Fractions containing product were combined and concentrated in vacuo, affording a second batch of the title compound, as a brown solid. 1H NMR (400 MHz, DMSOd6): δ=1.44 (s, 9H), 2.43-2.53 (m, 2H), 3.57 (t, J=5.6 Hz, 2H), 4.03 (s, 5H), 6.38 (s, br, 1H), 6.76 (s, br, 1H), 8.60 (d, J=8.8 Hz, 1H), 7.69 (dd, J=8.8, 2.0 Hz, 1H), 8.01 (d, J=0.8 Hz, 1H), 8.26 (s, 1H), 8.39 (d, J=1.6 Hz, 1H), 9.34 (s, —NH), 11.91 (d, J=2.0 Hz, —NH). MS (ES+): m/z 446.07 (100) [MH+]. HPLC: tR=2.59 min (ZQ2000, polar—5 min).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.906 mmol, 638.1 mg, 1 eq | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 1-methyl-1H-indazol-5-ylamine | 3.855 mmol, 567.4 mg, 2 eq | CN1N=CC2=CC(=CC=C12)N | C8H9N3
solvent | n-BuOH | 26 mL | CCCCO | C4H10O
product | 4-[4-(1-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C=NN(C3=CC2)C)N1 | C24H27N7O2
